US05409943
(b) N-(3-Benzyloxy-2-pyridyl)-N'-(4-chlorophenyl)guanidine
To a stirring suspension of N-(3-benzyloxy-2-pyridyl)-N'-(4-chlorophenyl)thiourea (1.5 g, 0.00406 mol) in ammonia-saturated methanol (30 ml) was added yellow mercuric oxide (2.2 g, 0.01 mol). Stirring was continued for 20 h, then the solvent evaporated and the black residue treated with chloroform and filtered through celite. The filtrate was evaporated to a whim solid, which was recrystallised from ethyl acetam. Yield 0.76 g (53%), m.p. 170°-172 ° C.

reactant | N-(3-benzyloxy-2-pyridyl)-N'-(4-chlorophenyl)thiourea | 0.00406 mol, 1.5 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)NC(=S)NC1=CC=C(C=C1)Cl | C19H16ClN3OS
reactant | ammonia | 30 ml | N | H3N
product | N-(3-Benzyloxy-2-pyridyl)-N'-(4-chlorophenyl)guanidine | C(C1=CC=CC=C1)OC=1C(=NC=CC1)NC(=N)NC1=CC=C(C=C1)Cl | C19H17ClN4O
